US07427616B2
1-[4-(Methylthio)thieno[3,2-d]pyrimidin-6-yl]-2-phenylethane-1,2-dione 1-oxime
6-Methyl-4-(methylthio)thieno[3,2-d]pyrimidine, (intermediate 22) (665 mg) was dissolved in THF (10 mL) and added slowly, over 15 minutes, to a stirred solution of LHMDS in THF (1M, 3.39 mL) at −78° C. After 10 minutes, N-methoxy-N-methylbenzamide (616 mg) was added and the reaction mixture warmed to 0° C. After 2 hours at 0° C. the resultant solution of 2-[4-(methylthio)thieno[3,2-d]pyrimidin-6-yl]-1-phenylethanone was acidified with acetic acid (10 mL), diluted with water (10 mL) and re-cooled to 0° C. Sodium nitrite (280 mg) was added and the mixture was stirred overnight. After evaporation of the solvents, the solid residue was collected with water by filtration, and dried to give the title compound as a brown solid (959 mg, 86%);

reactant | 6-Methyl-4-(methylthio)thieno[3,2-d]pyrimidine | CC1=CC=2N=CN=C(C2S1)SC | C8H8N2S2
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-methoxy-N-methylbenzamide | 616 mg | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
reactant | 2-[4-(methylthio)thieno[3,2-d]pyrimidin-6-yl]-1-phenylethanone | CSC=1C2=C(N=CN1)C=C(S2)CC(=O)C2=CC=CC=C2 | C15H12N2OS2
reactant | Sodium nitrite | 280 mg | N(=O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 3.39 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-[4-(Methylthio)thieno[3,2-d]pyrimidin-6-yl]-2-phenylethane-1,2-dione 1-oxime | 959 mg, 86% | CSC=1C2=C(N=CN1)C=C(S2)C(C(=O)C2=CC=CC=C2)=NO | C15H11N3O2S2
